Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is an ___ yo F who presented to OSH with severe L-sided 
flank pain after a fall. Per pt, she was walking around outside 
when she tripped and fell down 4 stairs landing on her side. 
Struck her nose but did not lose consciousness. Rib xrays at OSH 
showed nondisplaced fractures of L posterior ribs ___. Due to 
pt's need for follow by a cardiothoracic surgeon, pt was 
transferred to ___. Of note, pt has underlying lung 
malignancy, currently undergoing treatment at ___ with 
recent Port-a-Cath placement ___.

 
Past Medical History:
-anal fissures
-HTN
-hypercholestrolemia
-hyperlipidemia
-LUL and RUL lung cancer (finished RXT, now on chemotherapy)
-abdominal aortic aneurysm, s/p open repair
-COPD, O2 dependent at baseline
-arthritis
-CHF
-s/p open cholecystectomy
-type II DM

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Physical Exam upon discharge:
VS: 98.5, 94, 97/58, 18, 98%/4L
Gen: NAD, ambulating around room
Heent: EOMI, MMM 
Cardiac: Irregular, rate controlled
Pulm: Lungs diminished at bases
Abdomen: Soft/nontender/nondistended
Ext: + pedal pulses. No CCE
Neuro: AAOx4, normal mentation.
 
Pertinent Results:
___ 05:50AM BLOOD WBC-12.9* RBC-2.46* Hgb-6.9* Hct-23.2* 
MCV-94 MCH-28.2 MCHC-29.8* RDW-20.1* Plt ___
___ 06:13AM BLOOD WBC-12.2* RBC-2.52* Hgb-7.3* Hct-23.3* 
MCV-92 MCH-28.9 MCHC-31.3 RDW-20.5* Plt ___
___ 02:04AM BLOOD WBC-15.0* RBC-2.49* Hgb-7.1* Hct-22.4* 
MCV-90 MCH-28.7 MCHC-31.8 RDW-20.6* Plt ___
___ 03:08AM BLOOD WBC-13.7* RBC-2.71* Hgb-7.7* Hct-24.6* 
MCV-91 MCH-28.5 MCHC-31.4 RDW-20.2* Plt ___
___ 03:29AM BLOOD WBC-12.9* RBC-2.96* Hgb-8.5* Hct-26.4* 
MCV-89 MCH-28.6 MCHC-32.1 RDW-19.2* Plt ___
___ 03:13AM BLOOD WBC-19.4* RBC-3.09* Hgb-8.5* Hct-27.1* 
MCV-88 MCH-27.6 MCHC-31.4 RDW-17.4* Plt ___
___ 09:10AM BLOOD WBC-4.8 RBC-2.96* Hgb-8.6* Hct-25.9* 
MCV-88 MCH-29.0 MCHC-33.1 RDW-15.4 Plt ___
___ 01:05AM BLOOD WBC-4.6 RBC-3.19* Hgb-9.1* Hct-27.2* 
MCV-85 MCH-28.5 MCHC-33.4 RDW-15.3 Plt ___
___ 02:55AM BLOOD Neuts-93* Bands-3 Lymphs-3* Monos-1* 
Eos-0 Baso-0 ___ Myelos-0
___ 04:01PM BLOOD Neuts-88* Bands-4 Lymphs-3* Monos-5 Eos-0 
Baso-0 ___ Myelos-0
___ 01:05AM BLOOD Neuts-84.2* Lymphs-9.0* Monos-6.4 Eos-0.1 
Baso-0.3
___ 05:50AM BLOOD ___
___ 06:13AM BLOOD ___ PTT-79.9* ___
___ 04:30PM BLOOD ___ PTT-86.0* ___
___ 08:12AM BLOOD ___ PTT-123.9* ___
___ 02:04AM BLOOD ___ PTT-94.3* ___
___ 12:45PM BLOOD ___ PTT-81.8* ___
___ 03:08AM BLOOD ___ PTT-74.9* ___
___ 10:45AM BLOOD ___ PTT-58.2* ___
___ 11:59AM BLOOD ___ PTT-49.8* ___
___ 08:15PM BLOOD ___ PTT-30.8 ___
___ 01:05AM BLOOD ___ PTT-30.6 ___
___ 05:50AM BLOOD Glucose-152* UreaN-13 Creat-0.9 Na-137 
K-4.1 Cl-104 HCO3-25 AnGap-12
___ 06:13AM BLOOD Glucose-158* UreaN-11 Creat-1.0 Na-136 
K-3.7 Cl-103 HCO3-25 AnGap-12
___ 02:04AM BLOOD Glucose-60* UreaN-11 Creat-1.1 Na-136 
K-4.4 Cl-103 HCO3-20* AnGap-17
___ 03:20PM BLOOD Glucose-234* UreaN-8 Creat-1.0 Na-135 
K-5.0 Cl-102 HCO3-21* AnGap-17
___ 02:55AM BLOOD Glucose-273* UreaN-29* Creat-1.5* Na-137 
K-4.4 Cl-99 HCO3-17* AnGap-25*
___ 04:01PM BLOOD Glucose-237* UreaN-28* Creat-1.5* Na-134 
K-4.4 Cl-100 HCO3-16* AnGap-22*
___ 12:16PM BLOOD Glucose-170* UreaN-27* Creat-1.5* Na-137 
K-3.8 Cl-101 HCO3-19* AnGap-21*
___ 06:28AM BLOOD Glucose-147* UreaN-23* Creat-1.0 Na-135 
K-4.5 Cl-100 HCO3-21* AnGap-19
___ 01:05AM BLOOD Glucose-234* UreaN-16 Creat-0.8 Na-134 
K-4.1 Cl-99 HCO3-17* AnGap-22*
___ 05:50AM BLOOD Calcium-7.9* Phos-3.8 Mg-2.3
___ 06:13AM BLOOD Calcium-7.8* Phos-3.4 Mg-2.2
___ 02:04AM BLOOD Calcium-8.1* Phos-2.8 Mg-2.5
___ 03:20PM BLOOD Calcium-8.1* Phos-2.8 Mg-2.6
___ 03:08AM BLOOD Calcium-7.7* Phos-2.8 Mg-1.9
___ 03:29AM BLOOD Calcium-8.3* Phos-2.6* Mg-1.9
___ 06:30PM BLOOD Calcium-8.4 Phos-2.1* Mg-1.9
___ 02:50PM BLOOD Digoxin-1.4
___ 02:04AM BLOOD Digoxin-1.2
___ 03:29AM BLOOD Digoxin-1.1
___ 02:54AM BLOOD Digoxin-3.8*
___ 04:04PM BLOOD Digoxin-3.7*

___   Imaging CHEST (PORTABLE AP) 
FINDINGS:  There remains complete collapse of the left upper 
lobe, known to be post-obstructive in this patient with history 
of central left lung cancer.  Left lower lobe consolidation may 
represent an infectious pneumonia given appearance on recent CT 
of two days earlier.  Within the right lung, interstitial edema 
is present as well as a known cavitarymass in the right upper 
lobe. 

___BD & PELVIS WITH CO 
IMPRESSION: 
New left lower lobe consolidation, concerning for pneumonia.  
Left lower lobe bronchial secretions suggest aspiration and/or 
difficulty clearing secretions, which is concordant with known 
airway obstruction by large left perihilar mass. 

___   Cardiovascular ECHO 
The left atrium is moderately dilated. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild to moderate (___) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion. 

IMPRESSION: No cardiac source of embolism seen. Preserved global 
and regional biventricular systolic function. Mild to moderate 
mitral regurgitation. Mild pulmonary hypertension.  

___HEST W/CONTRAST 
IMPRESSION: 
1.  Large left perihilar mass encasing and occluding the left 
upper bronchus 
and nearly occluding the left pulmonary artery.  3.9 cm cavitary 
right upper 
lobe mass is consistent with metastasis. 
2.  Small left-sided pneumothorax. 
3.  Intra- and extra-hepatic biliary ductal dilatation.  
Differential 
considerations include pancreatic metastases or a second primary 
malignancy.  
Benign etiologies such as stricture are also possible. 
4.  Poor perfusion of the multi-cystic right kidney. 
5.  3.7 cm abdominal aortic aneurysm at the level of the hiatus. 
 Severe 
celiac artery stenosis. 
6.  Findings consistent with chronic aspiration at the left 
lower lobe. 

___-SPINE W/O CONTRAST 
IMPRESSION: 
1.  No evidence for a fracture of the cervical spine. Normal 
alignment. 
2.  Multilevel degenerative disease. 
3.  4.1 cm cavitary spiculated pulmonary mass in the right upper 
lobe, 
consistent with the patient's known lung cancer. Left upper lobe 
collapse, as 
seen on ___. 
4.  Carotid atherosclerosis.

___   Imaging CHEST (PORTABLE AP) 
IMPRESSION: 
1.  Small left pneumothorax. 
2.  Left upper lobe collapse.  Left lower opacities better 
charachterized on subsequent CT. 
3.  Spiculated right upper lobe mass, better charachterized on 
subsequent CT. 
  
 

  

 

 
Brief Hospital Course:
Ms ___ is an ___ year old female with bilateral upper 
lobe cancer who suffered a fall down four stairs while at home. 
She presented to the ___ ED where it was discovered that she 
had a small left-sided pneumothorax, in addition to fractures of 
the left ribs ___. She was admitted to the hospital for 
monitoring and pain control. 

Upon admission her pain was well controlled with an oral pain 
regmimen, with intravenous medication for break through pain. 
She had a chest xray that revealed a left lower lobe pneumonia. 
She was started on intravenous zosyn and vancomycin. She was 
also given lasix to diurese her in the setting of volume 
overload.  

The patient was transferred to the TSICU with hypotension 
refractory to fluid. She was tranfused with 1 unit packed red 
blood cells for a hematocrit of 22.4, and her white blood cell 
count increased to 14. Due to her rising white blood cell count, 
a cat scan of abdomen and pelvis was performed and it as 
negative for any acute process, showing a large stool burden. 
The patient was started on an aggressive bowel regimen. At this 
time, a heparin gtt was started for atrial fibrillation. The 
patient's sputum cultures grew out HAEMOPHILUS INFLUENZAE, and 
antibiotics were switched to ampicillin. The patient was digoxin 
loaded, and was given midodrine to prevent hypotension. Due to 
uncontrolled heart rate, the patient was started on a diltiazem 
gtt, and coumadin was restarted. 

The patient's heart rate stabilized on oral diltiazem and she 
was transferred to the surgical floor. Her oral Diltiazem was 
titrated to 90mg four times a day and the patient's heart rate 
remained in the ___. The patient was restarted on her home 
medications, including lasix. Her blood pressure remained in 
betweeen ___, however the patient was asymptomatic. Her INR 
was therapeutic and the heparin gtt was discontinued. The 
patient was tolerating a regular diet, and was given Ensure 
supplements with meals to provide her with additional nutrition. 
She was also given Megace to stimulate her appetite.  Her white 
blood cell count was elevated at 12, however it was stable and 
she remained afebrile. Her antibiotic course for hospital 
acquired pneumonia will end ___. Palliative care was 
following the patient, providing support. The patient was 
discharged to a rehab facility, with plan to possibly bridge to 
hospice care in the future. 

 
Medications on Admission:
Lasix 40mg PO daily  
Metoprolol 25mg PO BID  
Zocor 80mg PO BID  
ASA 81mg daily  
Albuterol nebs 2.5mg INH qid  
Advair 250/50 BID  
Combivent MDI PRN qid  
Spiriva 18mcg daily  
Guaifenesin AC 5cc qid  
Colace 200mg daily  
Milk of magensia 30cc PRN  
Senna 2mg daily  
Prozac 20mg daily  
Vicodin ES tid PRN  
Compazine PRN  
MVI  

 
Discharge Medications:
1. Ampicillin 2 g IV Q8H 
2. Docusate Sodium 200 mg PO DAILY 
3. Fluoxetine 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 1000 mg PO Q6H 
6. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB/wheeze 
7. Albuterol-Ipratropium ___ PUFF IH Q6H:PRN shortness of breath 

8. Diltiazem 90 mg PO Q6H 
9. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
10. Polyethylene Glycol 17 g PO DAILY 
11. Senna 1 TAB PO DAILY 
12. Simvastatin 10 mg PO DAILY 
13. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
GERD symptoms 
14. Dextrose 50% 12.5 gm IV PRN hypoglycemia protocol 
15. Midodrine 20 mg PO TID 
16. Pantoprazole 40 mg PO Q24H 
17. Digoxin 0.125 mg PO DAILY 
18. Furosemide 40 mg PO DAILY 
19. Tiotropium Bromide 1 CAP IH DAILY 
20. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
21. OLANZapine (Disintegrating Tablet) 2.5 mg PO BID:PRN 
anxiety/agitation 
22. Megestrol Acetate 400 mg PO DAILY 
23. Glargine 10 Units Bedtime
Insulin SC Sliding Scale using REG Insulin
24. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
25. Lidocaine 5% Patch 1 PTCH TD DAILY 
26. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 
27. Glucose Gel 15 g PO PRN hypoglycemia protocol 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
S/P fall
Injuries:
Left ___ Rib Fractures  
Nasal bone fracture  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ after you fell and sustained left 
sided rib fractures as well a nasal bone fracture. While you 
were hospitalized, you were tranferred to the ICU for a low 
blood pressure and rapid atrial fibrillation. You were started 
on antiarrythmics, and your heart rate was better controlled. 
Upon discharge, you were tolerating a regular diet and your rib 
pain was controlled with an oral pain regimen.  

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___